US07399775B2
2-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]-3-methylpyridine
To a dimethylformamide (5 ml) solution of the 2-[chloro-(2,5-difluorophenyl)methyl]-3-methylpyridine hydrochloride (94 mg, 0.32 mmol) obtained in Referential Example 14 were added 4-chlorobenzenethiol (70 mg, 0.49 mmol) and potassium carbonate (265 mg, 1.92 mmol) under a nitrogen atmosphere. The resulting mixture was stirred at 50° C. for 1 hour. After cooling to room temperature, diethyl ether (50 ml) was added to the reaction mixture. The resulting mixture was washed with water and brine. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (hexane:ethyl acetate 10:1), whereby the title compound (103 mg, 89%) was obtained as an oil.

reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 2-[chloro-(2,5-difluorophenyl)methyl]-3-methylpyridine hydrochloride | 0.32 mmol, 94 mg | Cl.ClC(C1=NC=CC=C1C)C1=C(C=CC(=C1)F)F
reactant | 4-chlorobenzenethiol | 0.49 mmol, 70 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 1.92 mmol, 265 mg | C([O-])([O-])=O.[K+].[K+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]-3-methylpyridine | ClC1=CC=C(C=C1)SC(C1=NC=CC=C1C)C1=C(C=CC(=C1)F)F | C19H14ClF2NS
